US07939531B2
A mixture of 5-(dihydroxyboryl)-2-thiophene-carboxylic acid (1.0 g, 5.4 mmol), [2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone (2.2 g, 4.9 mmol), potassium carbonate (2.0 g, 15 mmol), and Pd(dppf)Cl2.CH2Cl2 (0.400 g, 0.489 mmol) in 12 mL of 1,4-dioxane and 3 mL of water was stirred at 120° C. in a microwave for 40 min. The resulting red suspension was partitioned between 60 mL of ethyl acetate and 100 mL of water, and the aqueous layer was extracted with three 60 mL portions of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0->50% EtOAc/hexanes) afforded 1.24 g (46%) of 5-[7-(1-methyl-cyclohexanecarbonyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid as a brown solid.

reactant | 5-(dihydroxyboryl)-2-thiophene-carboxylic acid | 5.4 mmol, 1.0 g | OB(C1=CC=C(S1)C(=O)O)O | C5H5BO4S
reactant | [2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | 4.9 mmol, 2.2 g | BrC=1N=C2C(=NC1)N(C=C2C(=O)C2(CCCCC2)C)COCC[Si](C)(C)C | C20H30BrN3O2Si
reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 0.489 mmol, 0.400 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[7-(1-methyl-cyclohexanecarbonyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-thiophene-2-carboxylic acid | 1.24 g, 46% | CC1(CCCCC1)C(=O)C1=CN(C2=NC=C(N=C21)C2=CC=C(S2)C(=O)O)COCC[Si](C)(C)C | C25H33N3O4SSi
